US04120969
4-{[4-(4-Chlorophenyl)-4-hydroxyl-1-piperidinyl]methyl}-1-cyclohexyl-3,3-diphenyl-2-pyrrolidinone
A mixture of 39 g. (0.106 mole) of 4-chloromethyl-1-cyclohexyl-3,3-diphenyl-2-pyrrolidinone, 58.5 g. (0.424 mole) of finely ground potassium carbonate, and 22.5 g. (0.106 mole) of 4-(4-chlorophenyl)-4-hydroxypiperidine in 300 ml. of ethanol was heated to 200° C. in a steel bomb for 66 hrs. During the heating the bomb was continuously rotated to produce mild stirring. The contents were filtered and the filtrate concentrated. The residue was heated in 250 ml. of ethylacetate and allowed to stand at room temperature overnight. The mixture was filtered. The filtrate was extracted with dilute hydrochloric acid and dilute sodium hydroxide. The ethylacetate was concentrated and the residue dissolved in ethanol and allowed to stand overnight. The resulting mixture was filtered and the filtrate concentrated. The residue was chromatographed on a 4.5 × 60 cm. silica gel column. The product was obtained from the column using a chloroform-methanol eluate containing increasing amounts of methanol. The product after isolation and crystallization from isopropanol melted at 222°-225° C.

reactant | 4-chloromethyl-1-cyclohexyl-3,3-diphenyl-2-pyrrolidinone | 0.106 mole | ClCC1C(C(N(C1)C1CCCCC1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H26ClNO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(4-chlorophenyl)-4-hydroxypiperidine | 0.106 mole | ClC1=CC=C(C=C1)C1(CCNCC1)O | C11H14ClNO
reactant | ethanol | C(C)O | C2H6O
solvent | methanol | CO | CH4O
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 4-{[4-(4-Chlorophenyl)-4-hydroxyl-1-piperidinyl]methyl}-1-cyclohexyl-3,3-diphenyl-2-pyrrolidinone | ClC1=CC=C(C=C1)C1(CCN(CC1)CC1C(C(N(C1)C1CCCCC1)=O)(C1=CC=CC=C1)C1=CC=CC=C1)O | C34H39ClN2O2
